US05616586
To a mixture of N-ethoxalylindoline (4 g, 18.3 mmol), and iron powder (0.40 g) in dichloromethane (40 mL) was added dropwise bromine (1.43 mL, 27.7 mmol) at 0° C. The mixture was stirred for 4 h at room temperature and filtered. The filtrate was washed with aqueous sodium thiosulfate and then brine, dried over magnesium sulfate, and concentrated to give 5.24 g of 5-bromo-N-ethoxalylindoline (95%): 1H NMR (270 MHz, CDCl3) δ8.07(d, 1H, J=8 Hz), 7.35 (dd, 2H, J=8, 1 Hz), 4.38 (q, 2H, J=7 Hz), 4.27 (t, 2H, J=8 Hz), 3.20 (t, 2H, J=8 Hz), 1.41 (t, 3H, J=7 Hz).

reactant | N-ethoxalylindoline | 18.3 mmol, 4 g | C(=O)(C(=O)OCC)N1CCC2=CC=CC=C12 | C12H13NO3
reactant | bromine | 27.7 mmol, 1.43 mL | BrBr | Br2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
catalyst | iron | 0.40 g | [Fe] | Fe
product | 5-bromo-N-ethoxalylindoline | 5.24 g, 95% | BrC=1C=C2CCN(C2=CC1)C(=O)C(=O)OCC | C12H12BrNO3
